### PR TITLE
feat(Dyadic.toIGame): preserves addition, order embedding, and numeric range

### PR DESCRIPTION
**Pull request by plp127**
Prove a 3-in-1 theorem
- `Numeric (toIGame x)`
- `toIGame x ≤ toIGame y ↔ x ≤ y`
- `toIGame (x + y) ≈ toIGame x + toIGame y`

### CODE REVIEW

File: CombinatorialGames/Surreal/Numeric.lean [hunk 1]
```diff
@@ -94,6 +94,22 @@ theorem IsDyadic.add {x y : ℚ} (hx : IsDyadic x) (hy : IsDyadic y) : IsDyadic
   rw [Rat.add_def']
   exact IsDyadic.mkRat _ (Submonoid.mul_mem _ hx hy)
 
+theorem IsDyadic.nsmul {x : ℚ} (n : ℕ) (hx : IsDyadic x) : IsDyadic (n • x) := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Numeric.lean:97]: Aren't this and `IsDyadic.zsmul` easier to prove through `IsDyadic.mul`?

File: CombinatorialGames/Surreal/Numeric.lean [hunk 2]
```diff
@@ -120,7 +143,7 @@ instance : NatCast Dyadic where
 instance : IntCast Dyadic where
   intCast n := ⟨n, ⟨0, rfl⟩⟩
 
-@[simp] theorem val_intCast (n : ℕ) : (n : Dyadic).val = n := rfl
+@[simp] theorem val_intCast (n : ℤ) : (n : Dyadic).val = n := rfl
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Numeric.lean:146]: Embarrassing typo on my end, thanks!

File: CombinatorialGames/Surreal/Numeric.lean [hunk 3]
```diff
@@ -193,6 +234,9 @@ theorem odd_num {x : Dyadic} (hx : x.1.den ≠ 1) : Odd x.1.num := by
   rw [← Int.natAbs_dvd_natAbs]
   exact (Nat.not_coprime_of_dvd_of_dvd one_lt_two · hd x.1.reduced)
 
+instance : CanLift Dyadic Int Int.cast (·.1.den = 1) where
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Numeric.lean:237]: I think everything up to here in the PR are good additions, regardless of whether the rest is redundant or not.

**Review by vihdzp — COMMENTED** [review]
I already had a proof sketch of `toIGame (x + y) ≈ toIGame x + toIGame y` planned out. It uses the simplicity theorem, proving that `toIGame x + toIGame y` fits in `toIGame (x + y)`, but fits in none of its options. We induct in the lexicographically ordered pair `(toIGame x, toIGame y)`, which lets us assume that any option of `toIGame x + toIGame y` is equivalent to some `toIGame z`, at which point we can use the theorem on comparisons to convert the problem into basic fractions.

Note that once we have these three results, we're able to easily prove `toIGame x ≈ ↑x.val` by induction on the denominator, whence it follows that `fun x ↦ ⟦toIGame x⟧` is a ring homomorphism.

My PR exists in an incomplete form in the [`vi.numeric_pt3`](https://github.com/vihdzp/combinatorial-games/tree/vi.numeric_pt3) branch. I'll try to complete it today; if my proof sketch actually works, we can then figure out what the best parts of both PRs are.

File: CombinatorialGames/Surreal/Numeric.lean (hunk 3 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Numeric.lean:237]: Should I split those off into another PR?

File: CombinatorialGames/Surreal/Numeric.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Numeric.lean:97]: This is how I usually prove stuff about nsmul. I though about going through `IsDyadic.mul` but I wasn't completely sure that it would work and I was completely sure that induction would work.

File: CombinatorialGames/Surreal/Numeric.lean (hunk 3 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Numeric.lean:237]: Please do!

File: CombinatorialGames/Surreal/Numeric.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Numeric.lean:97]: `n • x = ↑n * x`, and both of these are dyadic.

File: CombinatorialGames/Surreal/Numeric.lean (hunk 3 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Numeric.lean:237]: #108

File: CombinatorialGames/Surreal/Numeric.lean [hunk 4]
```diff
@@ -226,6 +270,143 @@ theorem upper_neg (x : Dyadic) : upper (-x) = -lower x := by
...
+  rw [zsmul_eq_mul, Rat.intCast_eq_divInt, Rat.divInt_mul_divInt', one_mul,
+    Rat.den_mk, Rat.den_mk]
+  rw [if_neg (Nat.cast_ne_zero.mpr nz), if_neg (Nat.cast_ne_zero.mpr nz)]
+  apply Nat.div_le_div_left
+  · apply Nat.le_of_dvd (by simp [Int.gcd_pos_iff, nz])
+    exact Int.gcd_dvd_gcd_mul_left t b n
+  · simp [Int.gcd_pos_iff, nz]
+
+@[simp]
+theorem lower_add_self {x : Dyadic} (hx : x.1.den ≠ 1) :
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Numeric.lean:334]: I think these lemmas on `lower` and `upper` might be nice to have. They might help us if we ever want to work with dyadic games explicitly in the future.

**Comment by plp127** [comment]
closing since we have this already
